US07834041B2
(2S,4S)-4-[2-(2,2-Dimethylpropionyloxycarbamoyl)-4-methylpentanoylamino]-1-{pentyl[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]carbamoyl}pyrrolidine-2-carboxylic Acid Methyl Ester
(2S,4S)-4-Amino-1-{pentyl-[2′-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]carbamoyl}-pyrrolidine-2-carboxylic acid methyl ester (2.0 g, 3.0 mmol) and 2-(2,2-dimethyl-propionyloxycarbamoyl)-4-methylpentanoic acid (1.2 g, 1.4 equiv) were dissolved in DMF (20 mL). DIPEA (2 mL, 3.5 equiv) was added, followed by HATU (1.4 g, 1.2 equiv). The mixture was stirred for 16 hours at room temperature and then partitioned between water (100 mL) and EtOAc (100 mL). The layers were separated and the aqueous phase was re-extracted with EtOAc (100 mL). The combined organics were washed with saturated aqueous NaCl (100 mL), dried over Na2SO4, and evaporated to afford the title compound (2.2 g, 3 mmol), which was used without further purification. MS m/z: [M+H]+ calcd for C38H52N8O7, 732.9. found 733.5.

reactant | (2S,4S)-4-Amino-1-{pentyl-[2′-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]carbamoyl}-pyrrolidine-2-carboxylic acid methyl ester | 3.0 mmol, 2.0 g | COC(=O)[C@H]1N(C[C@H](C1)N)C(N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCCCC)=O | C26H33N7O3
reactant | 2-(2,2-dimethyl-propionyloxycarbamoyl)-4-methylpentanoic acid | 1.2 g, 1.4 equiv | CC(C(=O)ONC(=O)C(C(=O)O)CC(C)C)(C)C | C12H21NO5
reactant | DIPEA | 2 mL, 3.5 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.4 g, 1.2 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (2S,4S)-4-[2-(2,2-Dimethylpropionyloxycarbamoyl)-4-methylpentanoylamino]-1-{pentyl[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]carbamoyl}pyrrolidine-2-carboxylic Acid Methyl Ester | 3 mmol, 2.2 g | COC(=O)[C@H]1N(C[C@H](C1)NC(C(CC(C)C)C(NOC(C(C)(C)C)=O)=O)=O)C(N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCCCC)=O | C38H52N8O7
